US20010016659A1
To a stirring slurry of NaH (1.1 g, 44.9 inmol) in DMF (40 mL) at 0° C. was added a solution of 5-hydroxyisoindoline- 1,3-dione (3.2 g, 19.6 mmol) in DMF (40 mL) dropwise. The bright yellow-green mixture was allowed to return to room temp. and was stirred for 1 h, then 1-fluoro-4-nitrobenzene (2.67 g, 18.7 mmol) was added via syringe in 3-4 portions. The resulting mixture was heated at 70° C. overnight, then cooled to room temp. and diluted slowly with water (150 mL), and extracted with EtOAc (2×100 mL). The combined organic layers were dried (MgSO4) and concentrated under reduced pressure to give 5-(4-nitrophenoxy)isoindoline-1,3-dione as a yellow solid (3.3 g, 62%): TLC (30%/c, EtOAc/70% hexane) Rf 0.28; 1H NMR (DMSO-d6) δ7.32 (d, J=12 Hz, 2H), 7.52-7.57 (m, 2H), 7.89(d, J=7.8 Hz, 1H), 8.29 (d, J=9 Hz, 2H), 11.43 (br s, 1H); CL-MS m/z 285 ((M+H)+, 100%).

reactant | NaH | 1.1 g | [H-].[Na+]
reactant | 5-hydroxyisoindoline- 1,3-dione | 19.6 mmol, 3.2 g | OC=1C=C2C(NC(C2=CC1)=O)=O | C8H5NO3
reactant | 1-fluoro-4-nitrobenzene | 18.7 mmol, 2.67 g | FC1=CC=C(C=C1)[N+](=O)[O-] | C6H4FNO2
solvent | DMF | 40 mL | CN(C)C=O | C3H7NO
solvent | DMF | 40 mL | CN(C)C=O | C3H7NO
solvent | water | 150 mL | O | H2O
product | 5-(4-nitrophenoxy)isoindoline-1,3-dione | 3.3 g, 62% | [N+](=O)([O-])C1=CC=C(OC=2C=C3C(NC(C3=CC2)=O)=O)C=C1 | C14H8N2O5
